US07018559B2
A. Synthesis of 4-n-octyloxymethylbicyclo[2.2.1]hept-2-ene
A 500 mL round bottom flask equipped with a mechanical stirrer was charged with 9.7g (0.075 mol) of 5-norbornene-2-methanol, and 25 ml of DMSO. Potassium hydroxide (7.3g, 85% in purity; 0.13 mol) was added to the above mixture. After the above mixture was reacted at room temperature for 4 hrs., 15.9 g (0.15 mol) of n-octylbromide was slowly added to the above mixture over 25 min. The reaction was carried out at 80° C. for 3.3. hrs. After the reaction mixture was cooled to room temperature, the reaction mixture was combined with water (100 mL), extracted with chloroform (2×150 mL), washed with water (2×100 mL), and dried with sodium sulfate. The solvent was evaporated and the residue was vacuum distilled to give pure product.

reactant | 9.7g | 0.075 mol | C1CCC(=C(CNC2CCN(CC2)CC3=CC=CC=C3)F)C1 | C19H27FN2
reactant | 5-norbornene-2-methanol | C12C(CC(C=C1)C2)CO | C8H12O
reactant | Potassium hydroxide | 7.3g | [OH-].[K+]
reactant | n-octylbromide | 0.15 mol, 15.9 g | C(CCCCCCC)Br | C8H17Br
solvent | water | 100 mL | O | H2O
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
product | 4-n-octyloxymethylbicyclo[2.2.1]hept-2-ene | C(CCCCCCC)OCC12C=CC(CC1)C2 | C16H28O
